US03968161
for 2-methylene-6,6-dimethyl-1-[1,3-dioxo-1-butyl]-cyclohexane:
A solution of 30 g of γ-ionone in 75 ml of ethanol was added to a solution of hydroxylamine hydrochloride (12 g) and sodium acetate (21.6 g) in 30 ml of water. The addition was completed within 5 minutes. The reaction was slightly exothermic, the reaction mixture was stirred for 30 minutes, then it was concentrated under reduced pressure. Thereafter 30 ml of water and 30 ml of ether were added to the said mixture, and it was extracted with petroleum-ether. After drying and concentration, the combined organic extracts yielded a thick oil (31.2 g). An aliquot was distilled in a small distillation tube at a temperature of 180° and a pressure of 0.001 Torr. There was thus obtained a pure product which, as shown by vapour phase chromatography, constituted a mixture of the γ-ionone oxime in the form of the two syn- and anti-isomers in a ratio of 20:80.

reactant | γ-ionone | 30 g | CC(=O)/C=C/C1C(=C)CCCC1(C)C | C13H20O
reactant | hydroxylamine hydrochloride | 12 g | Cl.NO
reactant | sodium acetate | 21.6 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 75 ml | C(C)O | C2H6O
solvent | water | 30 ml | O | H2O
product | 2-methylene-6,6-dimethyl-1-[1,3-dioxo-1-butyl]-cyclohexane | 31.2 g | C=C1C(C(CCC1)(C)C)C(CC(C)=O)=O | C13H20O2
